2186-04-15 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Metoprolol held for low BP.
   - Aline placed and PICC ordered.
   - Increased chlorothiazide and tried BiPAP overnight for
   hypoventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-15**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.8
C (96.5
   HR: 89 (89 - 128) bpm
   BP: 92/55(68) {87/52(13) - 135/84(102)} mmHg
   RR: 16 (15 - 38) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    300 mL
                                                                    200 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,813 mL
                                                                    960 mL
   Urine:
                                                                  1,813 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,513 mL
                                                                   -760 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 592 (334 - 592) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.41/67/110/45/14
   Ve: 7.2 L/min
   PaO2 / FiO2: 220
   Physical Examination
   VS: T 99.3 BP 111/45 HR 103 RR 22 SpO2 97% bipap
   Gen: NAD, labored breathing
   HEENT: PERRL, EOMI, NCAT, mmm
   NECK: large nontender goiter on R, JVD elevated sitting 90degrees
   CV: holosystolic murmur with loss of S2 consistent
   with severe AS, no delayed upstrokes
   LUNGS: bibasilar crackles, good air movement
   ABD: + bs, Soft, NTND
   EXT: BLE 4+ pitting edema
   Skin: warm, dry, BLE
   Neurologic: no focal deficits, CN 2-12 grossly intact
   Labs / Radiology
   233 K/uL
   9.0 g/dL
   120 mg/dL
   1.3 mg/dL
   45 mEq/L
   3.8 mEq/L
   38 mg/dL
   87 mEq/L
   138 mEq/L
   27.9 %
   8.3 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:03 AM
                             [**2186-4-14**]  07:23 PM
                             [**2186-4-14**]  09:37 PM
                             [**2186-4-15**]  12:35 AM
                             [**2186-4-15**]  04:01 AM
                             [**2186-4-15**]  05:55 AM
   WBC
   8.3
   Hct
   27.9
   Plt
   233
   Cr
   1.3
   TCO2
   47
   44
   45
   44
   Glucose
   146
   120
   Other labs: Lactic Acid:1.5 mmol/L, Mg++:2.3 mg/dL
   Assessment and Plan
   86 yo f with h/o HTN, CHF, COPD, Afib, and aortic stenosis s/p
   valvuloplasty who presents for evaluation for AVR and aggressive
   diuresis.
   Aortic Stenosis: Diagnosed with critical stenosis on previous
   admission. Initially not interested in surgical repair but agreed to
   cardiac cath with valvuloplasty. This was done [**2186-3-24**]. [**Location (un) 342**] improved
   from 0.5 to 0.64 and peak to peak gradient fell by 20mmHG. Patient
   tolerated the procedure and was discharged to rehab. Given continued
   symptoms, the patient is now agreeable to AVR. The preop eval was
   performed at previous admit. Patient is hesitant to get surgery, but
   after discussion with the team and her family, she is agreeable to be
   full code until the surgery and
   - dental consult
   - preop labs (LFTs, albumin, UA, coags, CBC, CMP)
   - CT surgery is following
   - hold coumadin
   CHF: Acute on Chronic, systolic. Most recent ECHO showed EF of 45%
   likely secondary to severe aortic stenosis. Patient is clearly volume
   overloaded on exam, and is now requiring high flow mask oxygen. On
   previous discharge she was on 2L NC. She is 3L negative so far for the
   hospital stay.
   - increase lasix gtt to 20cc/hour so long as systolic tolerates
   - add acetazolamide
   - caution with diuresis as patient is likely very preload dependent
   - continue beta blocker
   - monitor I/Os
   Hypoxia: From pulmonary edema. patient also has some degress of
   restriction from kyphosis
   - Pulmonology consult appreciated: f/u recs
   - high flow mask, wean as tolerated
   - diurese
   Metabolic Alkalosis with coexisting respiratory acidosis: part of the
   alkalosis may be from hyperventilating during ABG. Metabolic alk likely
   contraction alk from h+ with loss diuresis
   - start acetazolamide
   COPD: chronic, stable, not severe
   - continue nebs prn
   - continue supplemental oxygen
   Atrial fibrillation: chronic, currently rate controlled
   - hold coumadin for potential surgery
   - continue rate control with metoprolol
   Goiter: Chronic, stable. Worked up extensively on previous admission.
   See prior discharge summary for full details.
   FEN: Cardiac diet, replete lytes prn
   ACCESS: PIV
   CODE: FULL
   CONTACT: [**Name (NI) 2666**] (daughter) (h) [**Telephone/Fax (1) 5778**] (c) [**Telephone/Fax (1) 5779**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2186-4-14**] 09:32 AM
   20 Gauge - [**2186-4-14**] 11:33 AM
   Arterial Line - [**2186-4-14**] 11:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-04-16 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2186-4-15**] 10:00 AM
   -code status DNR/DNI
   -diuresing on lasix gtt at 20
   -repeat gas unchanged
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20.8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-16**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 88 (88 - 108) bpm
   BP: 101/65(79) {84/44(56) - 107/87(91)} mmHg
   RR: 21 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,660 mL
                                                                    269 mL
   PO:
                                                                  1,060 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    600 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    555 mL
   Urine:
                                                                  3,455 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,795 mL
                                                                   -286 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   Ventilator mode: Standby
   Vt (Spontaneous): 495 (495 - 495) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.43/70/76.[**Numeric Identifier 126**]/44/17
   Ve: 6.5 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Gen: NAD but with labored breathing
   HEENT: PERRL, NCAT, mmm
   NECK: large nontender goiter on R, JVD elevated sitting 90degrees
   CV: holosystolic murmur with loss of S2 consistent
   with severe AS, no delayed upstrokes
   LUNGS: bibasilar crackles, good air movement
   ABD: + bs, Soft, NTND
   EXT: BLE 2+ pitting edema
   Skin: warm, dry, BLE
   Neurologic: no focal deficits, CN 2-12 grossly intact
   Labs / Radiology
   262 K/uL
   8.7 g/dL
   94 mg/dL
   1.3 mg/dL
   44 mEq/L
   3.3 mEq/L
   43 mg/dL
   85 mEq/L
   134 mEq/L
   27.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:03 AM
                             [**2186-4-14**]  07:23 PM
                             [**2186-4-14**]  09:37 PM
                             [**2186-4-15**]  12:35 AM
                             [**2186-4-15**]  04:01 AM
                             [**2186-4-15**]  05:55 AM
                             [**2186-4-15**]  05:37 PM
                             [**2186-4-15**]  05:59 PM
                             [**2186-4-16**]  05:27 AM
   WBC
   8.3
   7.6
   Hct
   27.9
   27.4
   Plt
   233
   262
   Cr
   1.3
   1.3
   1.3
   TCO2
   47
   44
   45
   44
   48
   Glucose
   146
   120
   95
   94
   Other labs: PT / PTT / INR:27.4/32.0/2.7, Lactic Acid:1.2 mmol/L,
   Ca++:10.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   86 yo f with h/o HTN, CHF, COPD, Afib, and aortic stenosis s/p
   valvuloplasty transferred to the CCU for management of shortness of
   breath and fluid overload in the setting of critical aortic stenosis.
   Goals of Care
   After multiple discussions yesterday, patient would like to be DNR/DNI
   given limited ability for meaningful recovery and patient
s wishes to
   avoid prolonged hospitalizations or prolonged illness.
   - Palliative Care consult to assist with goals of care and discharge
   planning
   Hypoxia: Likely multifactorial related to kyphosis, fluid overload
   related to CHF and aortic stenosis. No other evidence of pneumonia.
   - appreciate pulmonary recs if tolerated
   - wean O2 as tolerated
   - diurese with goal 2L negative today
   Aortic Stenosis: Diagnosed with critical stenosis on previous admission
   with minimal improvement s/p valvuloplasty. Patient is not a surgical
   candidate for AVR
   - will continue to diurese carefully given risk of decreased preload
   CHF: Acute on Chronic, systolic. Most recent ECHO showed EF of 45%
   likely secondary to severe aortic stenosis. Patient is clearly volume
   overloaded on exam, and is now requiring high flow mask oxygen.
   - continue lasix gtt to 20cc/hour so long as systolic tolerates
   - caution with diuresis as patient is likely very preload dependent
   - continue beta blocker
   - monitor I/Os
   Metabolic Alkalosis with coexisting respiratory acidosis: part of the
   alkalosis may be from hyperventilating during ABG. Metabolic alk likely
   contraction alk from h+ with loss diuresis
   - continue to monitor
   COPD: chronic, stable, not severe
   - continue nebs prn
   - continue supplemental oxygen
   Atrial fibrillation: chronic, currently rate controlled
   - consider restarting coumadin
   - continue rate control with metoprolol
   Goiter: Chronic, stable. Worked up extensively on previous admission.
   See prior discharge summary for full details.
   ICU Care
   Nutrition: Cardiac diet, replete lytes prn
   Glycemic Control:
   Lines:
   22 Gauge - [**2186-4-14**] 09:32 AM
   20 Gauge - [**2186-4-14**] 11:33 AM
   Arterial Line - [**2186-4-14**] 11:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: [**Doctor First Name 2666**] (daughter) (h) [**Telephone/Fax (1) 5778**] (c)
   [**Telephone/Fax (1) 5779**]
   Code status:  DNR/DNI
   Disposition: CCU for now
   - palliative care consult to help with disposition
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to critical aortic stenosis, acute diastolic CHF,
   hypoxia.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy.
   Total time spent on patient care: 35  minutes of critical care time.
   Additional comments:
   date of service [**2186-4-16**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2186-4-16**] 11:13 ------

2186-04-17 05:41:00 Physician Resident Progress Note
24 Hour Events:
   Continued lasix gtt. Titrating to UOP; dose decreased from 20 to 10
   when >2L negative and SBP low 80s
   Refusing PO meds. Changed metoprolol to IV
   Palliative care consulted and will see pt tomorrow
   Pt reports does not want to take meds that will prolong life
   Family discussions continued regarding goals of care; in general no
   escalation of care
   S: Feels SOB, denies pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2186-4-17**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-17**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 87 (74 - 106) bpm
   BP: 104/61(77) {82/50(62) - 111/87(97)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,255 mL
                                                                    421 mL
   PO:
                                                                    420 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    835 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                  3,390 mL
                                                                  1,300 mL
   Urine:
                                                                  3,390 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,135 mL
                                                                   -879 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.41/72/105/49/17
   PaO2 / FiO2: 263
   Physical Examination
   Gen: comfortable appearing
   NECK: large nontender goiter on R, JVD elevated sitting 90degrees
   CV: [**4-7**] harsh systolic murmur at RUSB, [**4-7**] blowing systolic murmur at
   apex
   LUNGS: CTAB, limited by poor patient effort and difficulty positioning
   ABD: + bs, Soft, NTND
   EXT: BLE 3+ pitting edema
   Skin: warm, dry, BLE
   Labs / Radiology
   261 K/uL
   8.9 g/dL
   115 mg/dL
   1.2 mg/dL
   48 mEq/L
   3.2 mEq/L
   45 mg/dL
   85 mEq/L
   137 mEq/L
   26.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:37 PM
                             [**2186-4-15**]  12:35 AM
                             [**2186-4-15**]  04:01 AM
                             [**2186-4-15**]  05:55 AM
                             [**2186-4-15**]  05:37 PM
                             [**2186-4-15**]  05:59 PM
                             [**2186-4-16**]  05:27 AM
                             [**2186-4-16**]  09:41 AM
                             [**2186-4-16**]  05:27 PM
                             [**2186-4-17**]  04:34 AM
   WBC
   8.3
   7.6
   7.4
   Hct
   27.9
   27.4
   26.9
   Plt
   233
   262
   261
   Cr
   1.3
   1.3
   1.4
   1.3
   TCO2
   44
   45
   44
   48
   47
   Glucose
   95
   94
   95
   126
   Other labs: PT / PTT / INR:27.4/32.0/2.7, Lactic Acid:0.8 mmol/L,
   Ca++:10.2 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   86 yo f with h/o HTN, CHF, COPD, Afib, and aortic stenosis s/p
   valvuloplasty transferred to the CCU for management of shortness of
   breath and fluid overload in the setting of critical aortic stenosis.
   Goals of Care
   Multiple discussions related to patient
s goals of care and patient has
   been switched to DNR/DNI.
   - palliative care to see patient today
   - will try to coordinate family meeting today with Dr. [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **]
   - discontinue a-line
   Hypoxia
   Likely multifactorial related to kyphosis, fluid overload related to
   CHF and aortic stenosis.
   - appreciate pulmonary recs if tolerated
   - wean O2 as tolerated
   - transition from lasix drip to 120mg PO lasix with plans to increase
   as needed
   Atrial fibrillation
   Chronic, currently rate controlled
   - continue coumadin for now
   - continue rate control with metoprolol
   Aortic Stenosis
   Diagnosed with critical stenosis on previous admission with minimal
   improvement s/p valvuloplasty. Patient is not a surgical candidate for
   AVR
   - will continue to diurese carefully given risk of decreased preload
   Acute on Chronic, systolic CHF.
   Most recent ECHO showed EF of 45% likely secondary to severe aortic
   stenosis. Patient is clearly volume overloaded on exam, although her O2
   requirement has now improved markedly.
   - transition to oral lasix
   - caution with diuresis as patient is likely very preload dependent
   - continue beta blocker
   - monitor I/Os
   Metabolic Alkalosis with coexisting respiratory acidosis:
   Part of the alkalosis may be from hyperventilating during ABG.
   Metabolic alk likely contraction alk from h+ with loss diuresis
   - continue to monitor
   COPD
   Chronic, stable, not severe
   - continue nebs prn
   - continue supplemental oxygen
   Goiter: Chronic, stable. Worked up extensively on previous admission.
   See prior discharge summary for full details.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Arterial Line - [**2186-4-14**] 11:35 PM
   Midline - [**2186-4-15**] 10:00 AM
   Prophylaxis:
   DVT: anticoagulated on coumadin
   Stress ulcer: H2 blocker
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: CCU for now, palliative care consult for help with goals
   of care and disposition planning
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to severe aortic stenosis, acute on chronic
   diastolic CHF, hypoxia.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/16/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2186-4-18**] 09:16 ------

2186-04-18 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Palliative care discussion: will d/c to rehab and transition to
   hospice when needed. Pt to be DNR/DNI with no rehospitalizations. Only
   lab draws will be INR for warfarin. Would like to consolidate
   medications.
   - Stopped lasix gtt at 10am, no other diuretics given, patient still
   remained net negative 1.8L at 9:30pm.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2186-4-17**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-18**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.4
   HR: 91 (81 - 101) bpm
   BP: 92/46(98) {72/28(42) - 107/65(98)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                  1,705 mL
                                                                    100 mL
   PO:
                                                                    790 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    915 mL
   Blood products:
   Total out:
                                                                  3,640 mL
                                                                    290 mL
   Urine:
                                                                  3,640 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,935 mL
                                                                   -190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ////
   Physical Examination
   Gen: comfortable appearing
   NECK: large nontender goiter on R, JVD elevated sitting 90degrees
   CV: [**4-7**] harsh systolic murmur at RUSB, [**4-7**] blowing systolic murmur at
   apex
   LUNGS: CTAB, limited by poor patient effort and difficulty positioning
   ABD: + bs, Soft, NTND
   EXT: BLE 3+ pitting edema
   Skin: warm, dry, BLE
   Labs / Radiology (no new labs [**2186-4-18**])
   261 K/uL
   8.9 g/dL
   115 mg/dL
   1.2 mg/dL
   48 mEq/L
   3.2 mEq/L
   45 mg/dL
   85 mEq/L
   137 mEq/L
   26.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:37 PM
                             [**2186-4-15**]  12:35 AM
                             [**2186-4-15**]  04:01 AM
                             [**2186-4-15**]  05:55 AM
                             [**2186-4-15**]  05:37 PM
                             [**2186-4-15**]  05:59 PM
                             [**2186-4-16**]  05:27 AM
                             [**2186-4-16**]  09:41 AM
                             [**2186-4-16**]  05:27 PM
                             [**2186-4-17**]  04:34 AM
   WBC
   8.3
   7.6
   7.4
   Hct
   27.9
   27.4
   26.9
   Plt
   233
   262
   261
   Cr
   1.3
   1.3
   1.4
   1.3
   1.2
   TCO2
   44
   45
   44
   48
   47
   Glucose
   95
   94
   95
   126
   115
   Other labs: PT / PTT / INR:21.2/29.6/2.0, Lactic Acid:0.8 mmol/L,
   Ca++:10.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   86 yo f with h/o HTN, CHF, COPD, Afib, and aortic stenosis s/p
   valvuloplasty transferred to the CCU for management of shortness of
   breath and fluid overload in the setting of critical aortic stenosis.
   Given minimal chance for improvement at this point and patient
s goals
   and wishes, patient is DNR/DNI/Do not rehospitalize.
   Goals of Care
   Patient is  DNR/DNI / Do not hospitalize.
   - appreciate palliative care recs
   Hypoxia
   Likely multifactorial related to kyphosis, fluid overload related to
   CHF and aortic stenosis.
   - continue lasix PO
   - appreciate pulmonary recs if tolerated
   - wean O2 as tolerated
   Atrial fibrillation
   Chronic, currently rate controlled
   - continue coumadin for now
   - continue rate control with metoprolol
   Aortic Stenosis
   Diagnosed with critical stenosis on previous admission with minimal
   improvement s/p valvuloplasty. Patient is not a surgical candidate for
   AVR
   - will continue to diurese carefully given risk of decreased preload
   Acute on Chronic, systolic CHF.
   Most recent ECHO showed EF of 45% likely secondary to severe aortic
   stenosis. Patient is clearly volume overloaded on exam, although her O2
   requirement has now improved markedly.
   - continue oral lasix
   - caution with diuresis as patient is likely very preload dependent
   - continue beta blocker
   - monitor I/Os
   Metabolic Alkalosis with coexisting respiratory acidosis:
   Part of the alkalosis may be from hyperventilating during ABG.
   Metabolic alk likely contraction alk from h+ with loss diuresis
   - continue to monitor
   COPD
   Chronic, stable, not severe
   - continue nebs prn
   - continue supplemental oxygen
   Goiter: Chronic, stable. Worked up extensively on previous admission.
   See prior discharge summary for full details.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Midline - [**2186-4-15**] 10:00 AM
   Prophylaxis:
   DVT: anticoagulated on heparin
   Stress ulcer: Not indicated
   VAP:  Not indicated
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI / Do not rehospitalize
   Disposition: discharge to rehab if bed available
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per Dr. [**Last Name (STitle) 399**]
   Physical Examination
   As per. Dr [**Last Name (STitle) 399**]
   Medical Decision Making
   Severe aortic stenosis, acute on chronic systolic CHF,
   Additional comments:
   date of service 3/17/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2186-4-19**] 17:12 ------

2186-04-19 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2186-4-18**] 03:21 PM
   -palliative care recommended 12.5mg seroquel for nightmares and 2.5mg
   PO morphine for symptom control, then later of which patient and family
   did not want to use
   -dispo to rehab today
   -did have some delirium at night
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-4-19**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 98 (86 - 98) bpm
   BP: 84/55(59) {75/38(47) - 101/65(74)} mmHg
   RR: 19 (19 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
                  Total In:
                                                                    880 mL
                                                                     60 mL
   PO:
                                                                    880 mL
                                                                     60 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    285 mL
   Urine:
                                                                  1,405 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   Gen: comfortable appearing, difficult to arouse, somnolent
   NECK: large nontender goiter on R, JVD elevated sitting 90degrees
   CV: [**4-7**] harsh systolic murmur at RUSB, [**4-7**] blowing systolic murmur at
   apex
   LUNGS: CTAB, limited by poor patient effort and difficulty positioning
   ABD: + bs, Soft, NTND
   EXT: BLE 1+ pitting edema  to knees
   Skin: warm, dry, BLE
   Labs / Radiology
   261 K/uL
   8.9 g/dL
   115 mg/dL
   1.2 mg/dL
   48 mEq/L
   3.2 mEq/L
   45 mg/dL
   85 mEq/L
   137 mEq/L
   26.9 %
   7.4 K/uL
        [image002.jpg]
                             [**2186-4-14**]  09:37 PM
                             [**2186-4-15**]  12:35 AM
                             [**2186-4-15**]  04:01 AM
                             [**2186-4-15**]  05:55 AM
                             [**2186-4-15**]  05:37 PM
                             [**2186-4-15**]  05:59 PM
                             [**2186-4-16**]  05:27 AM
                             [**2186-4-16**]  09:41 AM
                             [**2186-4-16**]  05:27 PM
                             [**2186-4-17**]  04:34 AM
   WBC
   8.3
   7.6
   7.4
   Hct
   27.9
   27.4
   26.9
   Plt
   233
   262
   261
   Cr
   1.3
   1.3
   1.4
   1.3
   1.2
   TCO2
   44
   45
   44
   48
   47
   Glucose
   95
   94
   95
   126
   115
   Other labs: PT / PTT / INR:21.2/29.6/2.0, Lactic Acid:0.8 mmol/L,
   Ca++:10.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   86 yo f with h/o HTN, CHF, COPD, Afib, and aortic stenosis s/p
   valvuloplasty transferred to the CCU for management of shortness of
   breath and fluid overload in the setting of critical aortic stenosis.
   Given minimal chance for improvement at this point and patient
s goals
   and wishes, patient is DNR/DNI/Do not rehospitalize.
   Goals of Care
   Patient is  DNR/DNI / Do not hospitalize. Patient continues to be clear
   about these wishes
   - appreciate palliative care recs
   - discharge to rehab today
   Hypoxia
   Likely multifactorial related to kyphosis, fluid overload related to
   CHF and aortic stenosis.
   - continue lasix 120mg PO daily
   - O2 for comfort
   Atrial fibrillation
   Chronic, currently rate controlled
   - continue coumadin for now
   - continue rate control with 25mg toprol XL
   Aortic Stenosis
   Diagnosed with critical stenosis on previous admission with minimal
   improvement s/p valvuloplasty. Patient is not a surgical candidate for
   AVR
   -will continue to gentle diurese for improved respiratory status and
   comfort
   Acute on Chronic, systolic CHF.
   Most recent ECHO showed EF of 45% likely secondary to severe aortic
   stenosis. Patient is clearly volume overloaded on exam, although her O2
   requirement has now improved markedly.
   - continue oral lasix
   - caution with diuresis as patient is likely very preload dependent
   - continue beta blocker
   - monitor I/Os
   Metabolic Alkalosis with coexisting respiratory acidosis:
   Part of the alkalosis may be from hyperventilating during ABG.
   Metabolic alk likely contraction alk from h+ with loss diuresis
   - continue to monitor
   COPD
   Chronic, stable, not severe
   - continue nebs prn
   - continue supplemental oxygen
   Goiter: Chronic, stable. Worked up extensively on previous admission.
   See prior discharge summary for full details.
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Midline - [**2186-4-15**] 10:00 AM
   Prophylaxis:
   DVT: anticoagulated on coumadin
   Stress ulcer: ranitidine
   VAP:  Not indicated
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI / Do not rehospitalize
   Disposition: discharge to rehab today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Patient appears very comfortable, a bit sleepy.  Plans of care
   previously outlined and are consistent with the patient's wishes for no
   aggressive care.  Palliative care recs appreciated.  Will transfer to
   rehab facility today with prn Seroquel and morphine, as well as on
   chronic warfarin.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3494**], MD
   on:[**2186-4-19**] 09:01 ------